US05817671
5-(N-[4-pyridinecarbonyl]amino)-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.015 gm (0.061 mMol) 5-amino-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.014 gm (0.080 mMol) 4-pyridinecarbonyl chloride hydrochloride, the title compound was prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.061 mMol, 0.015 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)CC | C14H20N4
reactant | 4-pyridinecarbonyl chloride hydrochloride | 0.080 mMol, 0.014 gm | Cl.N1=CC=C(C=C1)C(=O)Cl
product | 5-(N-[4-pyridinecarbonyl]amino)-3-(1-ethylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | N1=CC=C(C=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)CC | C20H23N5O
